US04450157
7.0 g (0.1 mol) of solid sodium nitrite are added portionwise while stirring well to a mixture of 12.9 g (0.1 mol) of 2,2,4-trimethyl-3-thiazoline, 12.0 g (0.2 mol) of acetic acid, 10.2 g (0.1mol) of acetic anhydride and 35 g of toluene at 10° C. The temperature of the mixture is allowed to rise to room temperature over 2 hours and the mixture is stirred at this temperature for an additional 16 hours. An ice-cold solution of 16 g (0.4 mol) of sodium hydroxide in 120 ml of water is then added dropwise to the mixture, a pH of about 11 being attained. The water insoluble portion is separated with 50 ml of diethyl ether. The aqueous phase is subsequently neutralized with concentrated hydrochloric acid. Almost colorless crystals precipitate when the mixture has a pH of about 6. The mixture is filtered and the crystals are washed with water and then dried at 40° C. under reduced pressure to yield 5-oxo-2,2,4-trimethyl-3-thiazoline oxime; m.p. 161°-162° C.

reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | 2,2,4-trimethyl-3-thiazoline | 0.1 mol, 12.9 g | CC1(SCC(=N1)C)C | C6H11NS
reactant | acetic acid | 0.2 mol, 12.0 g | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.1mol, 10.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 0.4 mol, 16 g | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
solvent | toluene | 35 g | C1(=CC=CC=C1)C | C7H8
product | 5-oxo-2,2,4-trimethyl-3-thiazoline oxime | N(O)=C1C(=NC(S1)(C)C)C | C6H10N2OS
